US08536165B2
5-Bromo-2-(2-chlorophenyl)pyrimidine
Obtained (0.400 g, yield 69%) following the procedure described in Intermediate 21, starting with 5-bromo-2-iodopyrimidine (2.14 mmol, 0.61 g), 2-chlorophenylboronic acid (2.37 mmol, 0.37 g).

reactant | 5-bromo-2-iodopyrimidine | 2.14 mmol, 0.61 g | BrC=1C=NC(=NC1)I | C4H2BrIN2
reactant | 2-chlorophenylboronic acid | 2.37 mmol, 0.37 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 5-Bromo-2-(2-chlorophenyl)pyrimidine | yield 69% | BrC=1C=NC(=NC1)C1=C(C=CC=C1)Cl | C10H6BrClN2
